US04172943
{[5,5-Dimethyl-8-(1,2-dimethylheptyl)-10-(4-piperidinobutyryloxy)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea hydrochloride (XII)
A mixture of 1.14 g. (0.0025 mole) of {[10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea, 0.52 g. (0.0025 mole) of 4-piperidinobutyric acid hydrochloride, 0.54 g. (0.0026 mole) of dicyclohexylcarbodiimide, and 170 ml. of dried methylene chloride was stirred at room temperature for 26 hours. The reaction mixture was cooled at approximately 6° C. overnight and was filtered to remove dicyclohexylurea. The filtrate was evaporated in vacuo and the residue was dissolved in 3 ml. of methylene chloride and 12.5 ml. of cyclohexane. After standing overnight in the cold room (approximately 6° C.), the solid was filtered and recrystallized from methylene chloride-ether, giving 1.1 g. of the product, m.p. 167°-170°.

reactant | {[10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea | 0.0025 mole | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)NC(=O)N)C(C(CCCCC)C)C | C26H39N3O4
reactant | 4-piperidinobutyric acid hydrochloride | 0.0025 mole | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 0.0026 mole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | {[5,5-Dimethyl-8-(1,2-dimethylheptyl)-10-(4-piperidinobutyryloxy)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C(CCCCC)C)C)OC(CCCN2CCCCC2)=O)C=2CN(CCC21)CC(=O)NC(=O)N)C | InChI=1S/C35H54N4O5.ClH/c1-6-7-9-13-24(2)25(3)26-20-29(43-32(41)14-12-18-38-16-10-8-11-17-38)33-27-22-39(23-31(40)37-34(36)42)19-15-28(27)35(4,5)44-30(33)21-26;/h20-21,24-25H,6-19,22-23H2,1-5H3,(H3,36,37,40,42);1H
